US07279499B2
A. Preparation of 1-bromo-2,5-bis-methoxymethoxy-3-methoxymethyl-benzene
Add sodium hydride (0.430 g of 60% in oil, 10.75 mmol) to DMF (100 mL) at −5° C. Add (3-bromo-2,5-bis-methoxymethoxy-phenyl)-methanol (3.00 g, 9.77 mmol) in DMF (20 mL) in portions and stir the resulting solution at −5° C. for 1 hour. Add methyl iodide (0.67 mL, 10.75 mmol) and stir the reaction for 1 hour. Pour the reaction into ice-H2O (200 mL) and extract with EtOAc (2×50 mL). Combine the extracts and wash with H2O (2×100 mL) and brine (50 mL) then dry (MgSO4), filter and concentrate. Purify the residue by silica gel chromatography eluting with Hex:EtOAc (80:20) to provide the subtitled product (2.76 g, 88%) as an oil. 1H NMR (CDCl3) δ 3.41 (s, 3H), 3.47 (s, 3H), 3.62 (s, 3H), 4.54 (s, 2H), 5.03 (s, 2H), 5.13 (s, 2H), 7.06 (d, J=2.9 Hz, 1H), 7.20 (d, J=2.9 Hz, 1H).

reactant | sodium hydride | 10.75 mmol, 0.430 g | [H-].[Na+]
reactant | (3-bromo-2,5-bis-methoxymethoxy-phenyl)-methanol | 9.77 mmol, 3.00 g | BrC=1C(=C(C=C(C1)OCOC)CO)OCOC | C11H15BrO5
reactant | methyl iodide | 10.75 mmol, 0.67 mL | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-bromo-2,5-bis-methoxymethoxy-3-methoxymethyl-benzene | 2.76 g, 88% | BrC1=C(C(=CC(=C1)OCOC)COC)OCOC | C12H17BrO5
